US06313127B1
A solution of N-(4-pyridyl)piperazine (8.15 g), 4,4′-difluorobenzophenone (13.1 g) and powdered potassium carbonate (9.12 g) was stirred at 95° C. in DMSO (100 ml) overnight. The solution was poured into water (1500 ml) to give a precipitate which was filtered, washed with water and dried. The solid (7.82 g) was stirred in trifluoroacetic acid (25 ml) under argon with triethylsilane (10 ml) for 18 hours. The solution was poured into water (315 ml), taken to pH 12 with sodium hydroxide solution and extracted with dichloromethane (2×300 ml). The combined dichloromethane extracts were washed with water, dried (Na2SO4) and evaporated to give a residue which was purified by chromatography on alumina (ICN Alumina N 32-63) using 0.5% methanol in dichloromethane as eluant. The solid obtained was recrystallised from a mixture of ethyl acetate/isohexane to give 1-(4-fluorobenzylphenyl)-4-(4-pyridyl)piperazine (350 mg) as a solid, m.p. 110-111° C.

reactant | N-(4-pyridyl)piperazine | 8.15 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | 4,4′-difluorobenzophenone | 13.1 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | potassium carbonate | 9.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1500 ml | O | H2O
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 1-(4-fluorobenzylphenyl)-4-(4-pyridyl)piperazine | 350 mg | FC1=CC=C(CC2=C(C=CC=C2)N2CCN(CC2)C2=CC=NC=C2)C=C1 | C22H22FN3
